US08633313B2
To a mixture of 3-(3-fluorophenyl)-3-oxopropanenitrile (0.8991 g, 5.511 mmol) and 3-amino-2-pyridinecarbaldehyde (0.6730 g, 5.511 mmol) in ethyl acetate (16.70 mL, 5.511 mmol) was added piperidine (0.04360 mL, 0.4409 mmol) and the mixture was heated under reflux (bath temp. 85° C.) with stirring. After 1 h, the mixture was cooled to room temperature and concentrated under reduced pressure to give a dark brown solid. The dark brown solid was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and then 50% isocratic of EtOAc in hexane for 25 min as eluent to give 2-(3-fluorophenyl)-1,5-naphthyridine-3-carbonitrile as a brown solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 9.27 (1H, d, J=0.8 Hz), 9.18 (1H, dd, J=4.1, 1.8 Hz), 8.56-8.62 (1H, m), 8.01 (1H, dd, J=8.6, 3.9 Hz), 7.76-7.85 (2H, m), 7.63-7.71 (1H, m), 7.44-7.52 (1H, m); LC-MS (ESI) m/z 249.9 [M+H]+.

reactant | 3-(3-fluorophenyl)-3-oxopropanenitrile | 5.511 mmol, 0.8991 g | FC=1C=C(C=CC1)C(CC#N)=O | C9H6FNO
reactant | 3-amino-2-pyridinecarbaldehyde | 5.511 mmol, 0.6730 g | NC=1C(=NC=CC1)C=O | C6H6N2O
reactant | ethyl acetate | 5.511 mmol, 16.70 mL | C(C)(=O)OCC | C4H8O2
reactant | piperidine | 0.4409 mmol, 0.04360 mL | N1CCCCC1 | C5H11N
product | 2-(3-fluorophenyl)-1,5-naphthyridine-3-carbonitrile | FC=1C=C(C=CC1)C1=NC2=CC=CN=C2C=C1C#N | C15H8FN3
